US09120749B2
Cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-(1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-ylamino)quinolin-3-yl)methanone
Following general procedure D, (6-bromo-4-(1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-ylamino) quinoline-3-yl)(cyclopropyl)methanone (50 mg, 0.11 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (49 mg, 0.17 mmol) to afford the desired product (36 mg, 63%) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.45 (s, 1H), 8.23 (d, J=9.0 Hz, 1H), 8.01 (d, J=9.2 Hz, 2H), 7.68 (s, 1H), 7.40 (s, 1H), 4.62 (m, 1H), 3.68 (d, J=12.8 Hz, 2H), 3.41 (m, 1H), 3.25 (m, 2H), 2.94 (s, 3H), 2.37 (m, 3H), 1.22 (m, 3H); ESI MS m/z 536 [C28H27Cl2N5O2+H]+; HPLC 98.4% (AUC), tR=10.57 min.

reactant | (6-bromo-4-(1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-ylamino) quinoline-3-yl)(cyclopropyl)methanone | 0.11 mmol, 50 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NN(C1)C1CCN(CC1)C | C22H24BrN5O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.17 mmol, 49 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | Cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-(1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-ylamino)quinolin-3-yl)methanone | 36 mg, 63% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NN(C1)C1CCN(CC1)C)C1=CC(=C(C(=C1)Cl)O)Cl | C28H27Cl2N5O2
